US05932571
Synthesis of 4-(1-(4-cyanobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 1-(t-butoxycarbonyl)-4-(1-(4-cyanobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.3 mmol) and dichloromethane (5 mL). Add aqueous 48% hydriodic acid solution (0.6 mmol). Heat to 40° C. After 6 hours, cool to ambient temperature dilute with diethyl ether (20 mL), and collect the solid to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(4-cyanobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 0.3 mmol | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCCC#N)C=CC=C2 | C22H31N5O2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | hydriodic acid | 0.6 mmol | I | HI
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 4-(1-(4-cyanobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.C(#N)CCCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C17H23N5.HI/c18-9-4-1-5-13-22-16-8-3-2-7-15(16)20-17(22)21-12-6-10-19-11-14-21;/h2-3,7-8,19H,1,4-6,10-14H2;1H
